US07655664B2
2-Cyclopropylpyrimidine-4-boronic acid
The title compound was prepared from 4-bromo-2-cyclopropylpyrimidine (WO 00/066566) in 90% yield (25 mmol scale) following the procedure by Li et al. (J. Org. Chem. 2002, 67, 5394-5397). LC-MS suggested that the product was composed of the boronic acid and the trimeric anhydride (sym-boroxine).

reactant | 4-bromo-2-cyclopropylpyrimidine | BrC1=NC(=NC=C1)C1CC1 | C7H7BrN2
reactant | boronic acid | B(O)O | BH3O2
reactant | boroxine | O1BOBOB1 | B3H3O3
product | 2-Cyclopropylpyrimidine-4-boronic acid | 90% yield | C1(CC1)C1=NC=CC(=N1)B(O)O | C7H9BN2O2
